US07214700B2
(2-Oxo-1,2-dihydroindol-3-ylidene)-phenylacetic acid
Oxindole (390 mg, 3mmol) was condensed with ethyl phenylglyoxylate (540 mg) using method A to give 200 mg (25%) of the title compound as a yellow solid.

reactant | Oxindole | 3mmol, 390 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | ethyl phenylglyoxylate | 540 mg | C1(=CC=CC=C1)C(C(=O)OCC)=O | C10H10O3
product | (2-Oxo-1,2-dihydroindol-3-ylidene)-phenylacetic acid | 200 mg, 25% | O=C1NC2=CC=CC=C2C1=C(C(=O)O)C1=CC=CC=C1 | C16H11NO3
